US04357342
A mixture of 4-(3-benzyloxycarbonyl-3-diazo-2-oxopropyl)-azetidin-2-one (718 mg. 25 mMol), rhodium (II) acetate (5 mg) and anhydrous benzene (50 ml) is deoxygenated by bubbling nitrogen through it for 45 minutes. The mixture is then stirred and heated in an oil bath maintained at 80° C. for 70 minutes. After cooling to room temperature, the mixture is filtered and the filtrate is evaporated under vacuum to an oil. Crystallization from ethyl acetate (5 ml)-diethylether (20 ml) provides benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (502 mg, 77% yield) as small, white prisms: mp 100°-102°; IR (CH2Cl2) 1770; 1741 cm-1 ; UV (dioxane) 220 nm; NMR (CDCl3, 300 MHz) δ2.43 (dd, 1, J=8 and 19, H4a), 2.94 (dd, 1, J=6.5 and 19, H4b), 2.99 (dd, 1, J=2 and 16, H6B), 3.63 (dd, 1, J=5 and 16, H6α), 4.18 (m, 1, H5), 4.76 (S, 1, H2), 5.23 (S, 2, CH2 φ), and 7.40 (S, 5, ArH); MS m/e 259 (M+), 231 (M+ -28), 217 (M+ -42), 203, 187, 186, (M+ -91), 124, and 91.

reactant | 4-(3-benzyloxycarbonyl-3-diazo-2-oxopropyl)-azetidin-2-one | 25 mMol, 718 mg | C(C1=CC=CC=C1)OC(=O)C(C(CC1CC(N1)=O)=O)=[N+]=[N-] | C14H13N3O4
catalyst | rhodium (II) acetate | 5 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 502 mg, 77% yield | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
